US09302010B2
Effect of pH on Pramlintide Solubility
Pramlintide acetate was dissolved in H2O at 2 mg/mL with either a 10 mM citrate buffer, pH 4 or 10 mM phosphate buffer, pH 7. These solutions were lyophilized to dryness (>1% residual moisture) using a conservative cycle and reconstituted to various nominal concentrations in DMSO. Solubility was measured by visual inspection for clarity and turbidity via A630.

reactant | Pramlintide acetate | CC[C@H](C)[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N1CCC[C@H]1C(=O)N2CCC[C@H]2C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H](CC(=O)N)C(=O)N[C@@H](C(C)C)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(=O)N)C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H](CC=3C=CC(=CC3)O)C(=O)N)NC(=O)[C@@H]4CCCN4C(=O)CNC(=O)[C@H](CC=5C=CC=CC5)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](CO)NC(=O)[C@H](CO)NC(=O)[C@H](CC6=CNC=N6)NC(=O)[C@H](C(C)C)NC(=O)[C@H](CC(C)C)NC(=O)[C@H](CC=7C=CC=CC7)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](C)NC(=O)[C@H](CC(C)C)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CCC(=O)N)NC(=O)[C@H]([C@@H](C)O)NC(=O)[C@H](C)NC(=O)[C@@H]8CSSC[C@@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N8)[C@@H](C)O)C)[C@@H](C)O)CC(=O)N)NC(=O)[C@H](CCCCN)N.C(C)(=O)[O-]
solvent | H2O | O | H2O
solvent | citrate | 10 mM | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
solvent | phosphate | 10 mM | P(=O)([O-])([O-])[O-]
product | Pramlintide | CC[C@H](C)[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N1CCC[C@H]1C(=O)N2CCC[C@H]2C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H](CC(=O)N)C(=O)N[C@@H](C(C)C)C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CC(=O)N)C(=O)N[C@@H]([C@@H](C)O)C(=O)N[C@@H](CC=3C=CC(=CC3)O)C(=O)N)NC(=O)[C@@H]4CCCN4C(=O)CNC(=O)[C@H](CC=5C=CC=CC5)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](CO)NC(=O)[C@H](CO)NC(=O)[C@H](CC6=CNC=N6)NC(=O)[C@H](C(C)C)NC(=O)[C@H](CC(C)C)NC(=O)[C@H](CC=7C=CC=CC7)NC(=O)[C@H](CC(=O)N)NC(=O)[C@H](C)NC(=O)[C@H](CC(C)C)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CCC(=O)N)NC(=O)[C@H]([C@@H](C)O)NC(=O)[C@H](C)NC(=O)[C@@H]8CSSC[C@@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N8)[C@@H](C)O)C)[C@@H](C)O)CC(=O)N)NC(=O)[C@H](CCCCN)N | C171H267N51O53S2
